US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (0.193 g, 0.542 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.150 g, 0.542 mmol) and DIPEA (0.189 mL, 1.084 mmol) were combined in THF (2 mL) and treated with HATU (0.227 g, 0.596 mmol) at 25° C. overnight with stirring. The reaction mixture was concentrated to dryness, dissolved in DCM, washed with water, dried over MgSO4, filtered and concentrated to dryness. The residue was dissolved in DCM (2.5 mL) and treated with TFA (2.5 mL) at 25° C. overnight. The reaction mixture was concentrated to dryness, dissolved in DCM, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to dryness. The resultant solid was recrystallized from EtOH, cooled in an ice bath and filtered to give N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (0.195 g, 0.403 mmol, 74.3% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.18 (br. s., 1H), 8.26 (s, 1H), 7.93 (s, 1H), 7.78 (s, 1H), 7.46-7.60 (m, 3H), 7.37 (t, J=7.69 Hz, 1H), 4.53 (d, J=2.47 Hz, 2H). LC-MS (ES−) m/z 481.04, 483.07 [M−1]. LC-MS (ES+) m/z 482.94, 484.92 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 0.542 mmol, 0.193 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.542 mmol, 0.150 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | DIPEA | 1.084 mmol, 0.189 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.596 mmol, 0.227 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.403 mmol, 0.195 g, 74.3% yield | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C18H10BrCl2FN4O2
